US04351767
Preparation of 3α,6α-bis(β-methoxyethoxymethoxy)-5β-cholesten-24-en
1.4 g of 3α,6α-bis(β-methoxyethoxymethoxy)-5β-cholan-24-al (prepared as described in my U.S. patent application Ser. No. 236,160) was dissolved in 5 ml of tetrahydrofuran, and this solution was added dropwise to the deep red ylid solution (as described in Example I), and the chain extension reaction carried out in the same manner as in Example I. The residue remaining after evaporation of petroleum ether was the 3α,6α-bis(β-methoxyethoxymethoxy)-5β-cholest-24-ene.

reactant | 3α,6α-bis(β-methoxyethoxymethoxy)-5β-cholan-24-al | 1.4 g | COCCOCO[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OCOCCOC | C32H56O7
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3α,6α-bis(β-methoxyethoxymethoxy)-5β-cholesten-24-en | COCCOCO[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](C=CC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OCOCCOC | C35H60O6
